US20010053779A1
A finely ground mixture of 2-(3,4-diaminobenzyl)isoindole-1,3-dione (2.0 g, 7.5 mmol) and 2-ethoxycarbonylmethyl-1H-benzimidazole-5-carboxylic acid (0.93 g, 3.75 mmol) was heated 1 hour at 185° C. under nitrogen. The mixture was suspended in 1:1 methylene chloride/ethanol (20 mL) and stirred vigorously for 1 hour. The solids were collected by filtration, washed with 1:1 methylene chloride/ethanol (3×20 mL) and dried to provide 2-[5-(1,3-dioxo-1,3-dihydroisoindol-2-ylmethyl)-1H-benzoimidazol-2-ylmethyl]-1H-benzoimidazole-5-carboxylic acid (0.98 g, 29% yield); 1H-NMR (300 Mhz, DMSO-d6): 12.45 (broad s, 1H), 8.07 (s, 1H), 7.80-7.83 (m, 6H), 7.51 (d, 1H, J=7.5 Hz), 7.43 (s, 1H), 7.11 (d, 1H, J=7.2 Hz), 4.82 (s, 2H), 4.48 (s, 2H).

reactant | 2-(3,4-diaminobenzyl)isoindole-1,3-dione | 7.5 mmol, 2.0 g | NC=1C=C(CN2C(C3=CC=CC=C3C2=O)=O)C=CC1N | C15H13N3O2
reactant | 2-ethoxycarbonylmethyl-1H-benzimidazole-5-carboxylic acid | 3.75 mmol, 0.93 g | C(C)OC(=O)CC1=NC2=C(N1)C=CC(=C2)C(=O)O | C12H12N2O4
solvent | methylene chloride ethanol | 20 mL | C(Cl)Cl.C(C)O
product | 2-[5-(1,3-dioxo-1,3-dihydroisoindol-2-ylmethyl)-1H-benzoimidazol-2-ylmethyl]-1H-benzoimidazole-5-carboxylic acid | 0.98 g, 29% yield | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC2=C(NC(=N2)CC2=NC3=C(N2)C=CC(=C3)C(=O)O)C=C1 | C25H17N5O4
